### PR TITLE
[Merged by Bors] - feat(NumberField/CanonicalEmbedding/FundamentalCone): Define the subset of integral points

### PR DESCRIPTION
**Pull request by xroblot**
Define `fundamentalCone.integralPoint` which is the subset of points in the `fundamentalCone` that are images of algebraic integers. We prove in particular that there is an action of the torsion on `integralPoint` that preserves the norm. 

This PR is part of the proof of the Analytic Class Number Formula.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean [hunk 1]
```diff
@@ -573,6 +573,10 @@ open Module.Free
 
 open scoped nonZeroDivisors
 
+/-- The image of the ring of integers of `K` in the mixed space. -/
+protected abbrev integerLattice : Submodule ℤ (mixedSpace K) :=
+  LinearMap.range ((mixedEmbedding K).comp (algebraMap (𝓞 K) K)).toIntAlgHom.toLinearMap
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean:578]:
```suggestion
  ((mixedEmbedding K).comp (algebraMap (𝓞 K) K)).toIntAlgHom.toLinearMap.range
```
Does this work? I am afraid it doesn't, but it would be nice.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean [hunk 2]
```diff
@@ -234,6 +237,100 @@ theorem unit_smul_mem_iff_mem_torsion (hx : x ∈ fundamentalCone K) (u : (𝓞
...
+/-- If `a` is an integral point, then there is a *unique* algebraic integer in `𝓞 K` such
+that `mixedEmbedding K x = a`. -/
+theorem exists_unique_preimage_of_integralPoint {a : mixedSpace K} (ha : a ∈ integralPoint K) :
+    ∃! x : (𝓞 K), mixedEmbedding K x = a := by
+  obtain ⟨_, ⟨x, rfl⟩⟩ := mem_integralPoint.mp ha
+  refine Function.Injective.exists_unique_of_mem_range ?_ (Set.mem_range_self x)
+  exact (mixedEmbedding_injective K).comp RingOfIntegers.coe_injective
+
+theorem integralPoint_ne_zero (a : integralPoint K) :
+    (a : mixedSpace K) ≠ 0 := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:260]:
```suggestion
theorem integralPoint_ne_zero (a : integralPoint K) : (a : mixedSpace K) ≠ 0 := by
```

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean [hunk 3]
```diff
@@ -234,6 +237,100 @@ theorem unit_smul_mem_iff_mem_torsion (hx : x ∈ fundamentalCone K) (u : (𝓞
...
+  simp_rw [ne_eq, ← RingOfIntegers.coe_injective.eq_iff, ← (mixedEmbedding_injective K).eq_iff,
+    map_zero, (mem_integralPoint.mp a.prop).2.choose_spec, integralPoint_ne_zero,
+    not_false_eq_true])⟩
+
+@[simp]
+theorem mixedEmbedding_preimageOfIntegralPoint (a : integralPoint K) :
+    mixedEmbedding K (preimageOfIntegralPoint a : 𝓞 K) = (a : mixedSpace K) := by
+  rw [preimageOfIntegralPoint, (mem_integralPoint.mp a.prop).2.choose_spec]
+
+theorem preimageOfIntegralPoint_mixedEmbedding {x : (𝓞 K)⁰}
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:279]: Is there a reason why you work with nonzero divisors instead of nonzero elements?

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean [hunk 4]
```diff
@@ -234,6 +237,100 @@ theorem unit_smul_mem_iff_mem_torsion (hx : x ∈ fundamentalCone K) (u : (𝓞
...
+/-- If `x : mixedSpace K` is nonzero and the image of an algebraic integer, then there exists a
+unit such that `u • x ∈ integralPoint K`. -/
+theorem exists_unitSMul_mem_integralPoint {x : mixedSpace K} (hx : x ≠ 0)
+    (hx' : x ∈ mixedEmbedding K '' (Set.range (algebraMap (𝓞 K) K))) :
+    ∃ u : (𝓞 K)ˣ, u • x ∈ integralPoint K := by
+  replace hx : mixedEmbedding.norm x ≠ 0 :=
+      (norm_eq_zero_iff' (Set.mem_range_of_mem_image (mixedEmbedding K) _ hx')).not.mpr hx
+  obtain ⟨u, hu⟩ := exists_unit_smul_mem hx
+  obtain ⟨_, ⟨⟨x, rfl⟩, ⟨_, rfl⟩⟩⟩ := hx'
+  exact ⟨u, mem_integralPoint.mpr ⟨hu, ⟨u * x, by simp_rw [unitSMul_smul, ← map_mul]⟩⟩⟩
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:294]:
```suggestion
  obtain ⟨_, ⟨x, rfl⟩, _, rfl⟩ := hx'
  exact ⟨u, mem_integralPoint.mpr ⟨hu, u * x, by simp_rw [unitSMul_smul, ← map_mul]⟩⟩
```

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean [hunk 5]
```diff
@@ -234,6 +237,100 @@ theorem unit_smul_mem_iff_mem_torsion (hx : x ∈ fundamentalCone K) (u : (𝓞
...
+
+/-- The set `integralPoint K` is stable under the action of the torsion. -/
+theorem torsion_unitSMul_mem_integralPoint {x : mixedSpace K} {ζ : (𝓞 K)ˣ} (hζ : ζ ∈ torsion K)
+    (hx : x ∈ integralPoint K) :
+    ζ • x ∈ integralPoint K := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:299]:
```suggestion
    (hx : x ∈ integralPoint K) : ζ • x ∈ integralPoint K := by
```

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean [hunk 6]
```diff
@@ -234,6 +237,100 @@ theorem unit_smul_mem_iff_mem_torsion (hx : x ∈ fundamentalCone K) (u : (𝓞
...
+  smul := fun ⟨ζ, hζ⟩ ⟨x, hx⟩ ↦ ⟨ζ • x, torsion_unitSMul_mem_integralPoint hζ hx⟩
+
+instance : MulAction (torsion K) (integralPoint K) where
+  one_smul := fun _ ↦ by
+    rw [Subtype.mk_eq_mk, integralPoint_torsionSMul_smul_coe, OneMemClass.coe_one, one_smul]
+  mul_smul := fun _ _ _ ↦ by
+    rw [Subtype.mk_eq_mk]
+    simp_rw [integralPoint_torsionSMul_smul_coe, Subgroup.coe_mul, mul_smul]
+
+/-- The `mixedEmbedding.norm` of `a : integralPoint K` as a natural integer, see `intNorm_coe`. -/
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:315]:
```suggestion
/-- The `mixedEmbedding.norm` of `a : integralPoint K` as a natural number, see also `intNorm_coe`. -/
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean:578]: No, it doesn't work. Somehow `LinearMap.range` never works...

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean:578]: (I mean with the dot notation)

Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean:578]: Because it doesn't take a `LinearMap`, but a term of a type with an instance of `LinearMapClass` (I think).

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:279]: Yes, I want to use the general isomorphism `Ideal.associatesNonZeroDivisorsEquivIsPrincipal`.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:279]: OK, can you explain this in the docstring? Thanks!

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/FundamentalCone.lean:278]: I'll do it the next PR then so I can point to the result where the isomorphism is used.

**Comment by riccardobrasca** [comment]
Something strange happened and it seems bors forgot this one.

bors merge
